US09382222B2
A microwave vial was charged with 4-fluoro-N-isobutyl-benzenesulfonamide (1.0 g, 4.32 mmol), piperazine (1.86 g, 21.60 mmol) and water (20 mL) and heated at 150° C. for 1 hour using a microwave reactor. The solid from the reaction mixture was collected by filtration, washed with water and dried to give N-isobutyl-4-piperazin-1-yl-benzenesulfonamide (1.15 g, 90%). 1H NMR (300 MHz, CDCl3) δ 7.70 (d, J=9.0 Hz, 2H), 6.90 (d, J=9.0 Hz, 2H), 4.33 (t, J=6.5 Hz, 1H), 3.32-3.25 (m, 4H), 3.05-2.99 (m, 4H), 2.73 (t, J=6.6 Hz, 2H), 1.78-1.65 (m, 1H), 0.87 (d, J=6.7 Hz, 7H). LCMS (m/z, Method A) ES+ 298.2 [M+1]+.

reactant | 4-fluoro-N-isobutyl-benzenesulfonamide | 4.32 mmol, 1.0 g | FC1=CC=C(C=C1)S(=O)(=O)NCC(C)C | C10H14FNO2S
reactant | piperazine | 21.60 mmol, 1.86 g | N1CCNCC1 | C4H10N2
solvent | water | 20 mL | O | H2O
product | N-isobutyl-4-piperazin-1-yl-benzenesulfonamide | 1.15 g, 90% | C(C(C)C)NS(=O)(=O)C1=CC=C(C=C1)N1CCNCC1 | C14H23N3O2S
